US09238647B2
Step B: Methyl 5-amino-4′-fluoro-6-hydroxybiphenyl-3-carboxylate
The solution of methyl 4′-fluoro-6-hydroxy-5-nitrobiphenyl-3-carboxylate (13.0 mg, 45.0 μmol) and palladium (10% on carbon; 4.75 mg, 4.46 μmol) in ethanol (5 mL) was degassed and stirred under hydrogen at 1 atm. After 1 h, the mixture was filtered and washed with ethanol. The filtrate was concentrated to dryness to give the title compound (10 mg). LC-MS [M+1]=262.1.

reactant | methyl 4′-fluoro-6-hydroxy-5-nitrobiphenyl-3-carboxylate | 45.0 μmol, 13.0 mg | FC1=CC=C(C=C1)C1=CC(=CC(=C1O)[N+](=O)[O-])C(=O)OC | C14H10FNO5
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium | 4.46 μmol, 4.75 mg | [Pd] | Pd
product | Methyl 5-amino-4′-fluoro-6-hydroxybiphenyl-3-carboxylate | 10 mg | NC=1C=C(C=C(C1O)C1=CC=C(C=C1)F)C(=O)OC | C14H12FNO3
